US05116861
To the solution of S-trityl-L-penicillamylglycine ethyl ester (C-2) (3.7 g) in dichloromethane (50 ml) were added acetyl chloride (0.66 ml) and triethylamine (0.88 ml) at 0° C. The mixture was stirred at the same temperature for 15 minutes and then ice water was added. The organic layer was washed with an aqueous potassium hydrogensulfate solution, water, an aqueous sodium hydrogencarbonate solution, water and saturated saline, in this order, and dried over magnesium sulfate. The solvent was evaporated off under reduced pressure, and the residue was subjected to silica gel column chromatography, to give N-acetyl-S-trityl-L-penicillamylglycine ethyl ester (3.5 g).

reactant | S-trityl-L-penicillamylglycine ethyl ester | 3.7 g | C(C)OC(CNC([C@@H](N)C(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C28H32N2O3S
reactant | acetyl chloride | 0.66 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.88 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-acetyl-S-trityl-L-penicillamylglycine ethyl ester | 3.5 g | C(C)OC(CNC([C@@H](NC(C)=O)C(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C30H34N2O4S
